US05594006
To a mixed solution of 60% sodium hydride (28.8 g), imidazole (1.08 g, 15.9 mmol), and dry tetrahydrofurane (270 ml), a mixed solution of N-trityl-D-serine (25.0 g, 72.0 mmol) and dry tetrahydrofurane (150 ml) was dripped in 15 minutes at -15° C., and the mixture was stirred for 45 minutes at -15° C. Further, butyl iodide (65.5 ml, 576 mmol) was added, and the mixture was stirred for 2 hours at -15° C. Moreover, at -15° C., adding 60% sodium hydride (12.0 g) and butyl iodide (129 ml, 1.13 mol), the mixture was stirred for 1 day at -20° C. Adding water (1 liter) to the reaction solution, it was extracted with ether (300 ml×2), and the organic layer was washed with 5% aqueous solution of citric acid (200 ml) and saturated brine (100 ml), and dried over magnesium sulfate. The solvent was evaporated in vacuo, and 50% acetic acid-ethanol solution (100 ml) was added to the obtained oily matter, and the mixture was stirred for 15 hours at room temperature. The sediment was filtered, and washed with ethanol and ether, and O-butyl-D-serine (6.11 g, 53%) was obtained.

reactant | sodium hydride | 28.8 g | [H-].[Na+]
reactant | imidazole | 15.9 mmol, 1.08 g | N1C=NC=C1 | C3H4N2
reactant | N-trityl-D-serine | 72.0 mmol, 25.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](CO)C(=O)O | C22H21NO3
reactant | butyl iodide | 576 mmol, 65.5 ml | C(CCC)I | C4H9I
reactant | sodium hydride | 12.0 g | [H-].[Na+]
reactant | butyl iodide | 1.13 mol, 129 ml | C(CCC)I | C4H9I
solvent | tetrahydrofurane | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 270 ml | O1CCCC1 | C4H8O
product | O-butyl-D-serine | 6.11 g, 53% | C(CCC)OC[C@@H](N)C(=O)O | C7H15NO3
